US05773448
1-(2-(4-(4-Fluorobenzoyl)-1-piperidinyl)-1-ethyl)-1H-indol-2,3-dione monohydrochloride:
Prepared from 1-(2-chloroethyl)-1H-indol-2,3-dione and 4-fluorobenzoyl piperidine para toluenesulfonate and potassium carbonate and sodium iodide in N-methylpyrrolidinone.

reactant | 1-(2-chloroethyl)-1H-indol-2,3-dione | ClCCN1C(C(C2=CC=CC=C12)=O)=O | C10H8ClNO2
reactant | 4-fluorobenzoyl piperidine para toluenesulfonate | C1(=CC=C(C=C1)S(=O)(=O)O)C.FC1=CC=C(C(=O)N2CCCCC2)C=C1
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | [I-].[Na+]
reactant | N-methylpyrrolidinone | CN1C(CCC1)=O | C5H9NO
product | 1-(2-(4-(4-Fluorobenzoyl)-1-piperidinyl)-1-ethyl)-1H-indol-2,3-dione monohydrochloride | Cl.FC1=CC=C(C(=O)C2CCN(CC2)CCN2C(C(C3=CC=CC=C23)=O)=O)C=C1 | InChI=1S/C22H21FN2O3.ClH/c23-17-7-5-15(6-8-17)20(26)16-9-11-24(12-10-16)13-14-25-19-4-2-1-3-18(19)21(27)22(25)28;/h1-8,16H,9-14H2;1H
